US07238808B2
5-Bromo-N-(2-hydroxy-1,1-dimethyl-ethyl)-2-methoxy-benzenesulfonamide
Prepared by general procedure III from 2-amino-2-methyl-1-propanol (2.23 g, 25 mmol) and commercially available 5-bromo-2methoxybenzenesulfonyl chloride (1.43 g, 5 mmol) to give the title compound as an off-white solid (1.68 g, 99%). MS (ISN) 336.2 [(M−H)−], 338.1 [(M+2−H)−]. mp 168° C.

reactant | 2-amino-2-methyl-1-propanol | 25 mmol, 2.23 g | NC(CO)(C)C | C4H11NO
reactant | 5-bromo-2methoxybenzenesulfonyl chloride | 5 mmol, 1.43 g | BrC=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C7H6BrClO3S
product | 5-Bromo-N-(2-hydroxy-1,1-dimethyl-ethyl)-2-methoxy-benzenesulfonamide | 1.68 g, 99% | BrC=1C=CC(=C(C1)S(=O)(=O)NC(CO)(C)C)OC | C11H16BrNO4S
